US07259159B2
3a) 4-[4-((2S)-2-Amino-2-tert-butoxycarbonyl-ethylamino)-2-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-butyric acid ethyl ester
709 mg of 4-[4-((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-2-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-butyric acid ethyl ester were dissolved in 40 ml of ethanol and 1 ml of acetic acid and were hydrogenated over 100 mg of Pd/C (10%) during 4 h at room temperature. The catalyst was removed by filtration, the solvent was removed in vacuo. The residue was dissolved in 60 ml of DCM and stirred with 10 ml of brine and additional 5 g of NaHCO3. The phases were separated, the aqueous phase was extracted with DCM, the combined organic phases were dried over MgSO4, filtered and the solvent was removed in vacuo. Yield: 475 mg.

reactant | 4-[4-((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-2-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-butyric acid ethyl ester | 709 mg | C(C)OC(CCCN1C=CC2=C1N=C(N=C2NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC2=CC=CC=C2)C)=O | C28H37N5O6
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-[4-((2S)-2-Amino-2-tert-butoxycarbonyl-ethylamino)-2-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-butyric acid ethyl ester | C(C)OC(CCCN1C=CC2=C1N=C(N=C2NC[C@@H](C(=O)OC(C)(C)C)N)C)=O | C20H31N5O4
